US04935520
3,7,11,15-Tetramethylhexadecyl 2-trimethylammonioethyl phosphate
Dihydrophytol (0.60 g) and bromoethyl phosphorodichloridate (0.83 g) were dissolved in dry benzene (10 ml). To the solution was added dropwise dry pyridine (0.2 ml) under stirring. The mixture was stirred at room temperature for three hours, then cooled with ice, to which was added 2 ml of water. The mixture was again stirred vigorously at room temperature for two hours. The solvent was evaporated off, and the residue was dissolved in ether. The ether solution was washed with water, and then concentrated to dryness. The residue was dissolved in toluene (10 ml) containing trimethylamine (2 g), and the solution was left standing for five days. The reaction solution was concentrated under reduced pressure. The residue was subjected to a silica-gel chromatography (eluent, methanol) to yield 0.404 g (43%) of the object compound as colorless solid matter.

reactant | Dihydrophytol | 0.60 g | CC(C)CCCC(C)CCCC(C)CCCC(C)CCO | C20H42O
reactant | bromoethyl phosphorodichloridate | 0.83 g | P(OCCBr)(=O)(Cl)Cl | C2H4BrCl2O2P
reactant | pyridine | 0.2 ml | N1=CC=CC=C1 | C5H5N
reactant | water | 2 ml | O | H2O
reactant | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 3,7,11,15-Tetramethylhexadecyl 2-trimethylammonioethyl phosphate | 0.404 g, 43% | P(=O)(OCCC(CCCC(CCCC(CCCC(C)C)C)C)C)(OCC[N+](C)(C)C)[O-] | C25H54NO4P
